US05324747
Using this procedure, the reaction of 4-nitrocatechol with tetradecyl isocyanate gave 3,4-bis [[(tetradecylamino)carbonyl]oxy]nitrobenzene (mp 100°-104°). The structure was confirmed by the nmr spectrum.

reactant | 4-nitrocatechol | [N+](=O)([O-])C=1C=C(C(O)=CC1)O | C6H5NO4
reactant | tetradecyl isocyanate | C(CCCCCCCCCCCCC)N=C=O | C15H29NO
product | 3,4-bis [[(tetradecylamino)carbonyl]oxy]nitrobenzene | C(CCCCCCCCCCCCC)NC(=O)OC=1C=C(C=CC1OC(=O)NCCCCCCCCCCCCCC)[N+](=O)[O-] | C36H63N3O6
